US05405851
A mixture of 1,2,3,4-tetrahydro-4,4-dimethyl-1-naphthol (9.6 g, 54.5 mmoles) in 20% aqueous oxalic acid was stirred and heated to reflux for 5 hours. After cooling, the reaction mixture was diluted with one volume of water and then extracted with one volume of ether. The aqueous layer was extracted again with one volume of ethyl acetate and the combined organic phases were dried over magnesium sulfate, filtered, and evaporated under reduced pressure to leave an oil which was purified using silica gel column chromatography, eluting with ethyl acetate:hexane (0.1:49.9) to give 1,2-dihydro-1,1-dimethylnaphthalene as a colorless oil. (4.76 g, 55%).

reactant | 1,2,3,4-tetrahydro-4,4-dimethyl-1-naphthol | 54.5 mmoles, 9.6 g | CC1(CCC(C2=CC=CC=C12)O)C | C12H16O
solvent | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | water | O | H2O
product | 1,2-dihydro-1,1-dimethylnaphthalene | CC1(CC=CC2=CC=CC=C12)C | C12H14
